US07476665B2
Step C. 3-(2-Azidoethyl)-2-nitropyridine
Sodium azide (1.16 g, 17.8 mmol) was added to a solution of 3-(2-methansulfonyloxyethyl)-2-nitropyridine (0.44 g, 1.78 mmol) in dimethyl sulfoxide (5 mL), then stirred overnight at 50° C. The reaction was cooled and worked up with saturated sodium bicarbonate and methylene chloride. The organic phase was dried over sodium sulfate. This material was chromatographed (silica gel, 0-50% ethyl acetate in hexane, gradient elution) to produce the title compound (0.190 g) as a yellow oil. MS 194 (M+1).

reactant | Sodium azide | 17.8 mmol, 1.16 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-(2-methansulfonyloxyethyl)-2-nitropyridine | 1.78 mmol, 0.44 g | CS(=O)(=O)OCCC=1C(=NC=CC1)[N+](=O)[O-] | C8H10N2O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 3-(2-Azidoethyl)-2-nitropyridine | 0.190 g | N(=[N+]=[N-])CCC=1C(=NC=CC1)[N+](=O)[O-] | C7H7N5O2
